US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine (50 mg, 0.21 mmol) and 2-pyridylmethylamine (68 mg, 0.63 mmol) gave 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-pyridylmethyl)-2,4-pyrimidinediamine (40 mg, 62%). 1H NMR (CDCl3): δ 4.73 (d, J=6.3 Hz, 2H), 5.85 (t, J=6.0 Hz, 1H, NH), 6.48 (d, J=6.9 Hz, 1H), 6.61 (dd, J=2.7 and 8.1 Hz, 1H), 6.67 (s, 1H), 7.13 (t, J=8.1 Hz, 1H), 7.21 (dd, J=5.1 and 7.5 Hz, 1H), 7.49 (d, J=7.5 Hz, 1H), 7.69 (td, J=1.8 and 7.8 Hz, 1H), 7.85 (d, J=3.6 Hz, 1H), 8.38 (br, 1H), 8.56 (dd, J=1.2 and 3.9 Hz, 1H); 19F NMR (282 MHz, CDCl3): δ −170.49; LCMS: ret. time: 10.10 min.; purity: 100%; MS (m/e): 312.08 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | 0.21 mmol, 50 mg | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 2-pyridylmethylamine | 0.63 mmol, 68 mg | N1=C(C=CC=C1)CN | C6H8N2
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-pyridylmethyl)-2,4-pyrimidinediamine | 40 mg, 62% | FC=1C(=NC(=NC1)NCC1=NC=CC=C1)NC1=CC(=CC=C1)O | C16H14FN5O
